US07601736B2
Synthesis of 3,4-dihydro-2H-[2,7]naphtyridine-1-on
2-(4-methoxy-benzyl)-3,4-dihydro-2H-[2,7]naphtyridine-1-on (1.63 g, 6.075 mmol) was suspended in 30 mL of anhydrous toluene, added with p-toluene sulfonic acid monohydrate (4.62 g, 24.30 mmol) and heated to reflux for about 6 hours under the nitrogen atmosphere. The mixture, while being stirred at 0° C., neutralized by adding a saturated solution of sodium carbonate and extracted seven times with 150 mL of 15% MeOH/MC. The resulting organic layer was dried with anhydrous sodium sulfate, filtered and then concentrated. A silica gel column chromatography (7% MeOH/MC) was performed on the resulting residue an dobtained 550 mg (61%) of 3,4-dihydro-2H-[2,7]naphtyridine-1-on in white solid.

reactant | 2-(4-methoxy-benzyl)-3,4-dihydro-2H-[2,7]naphtyridine-1-on | 6.075 mmol, 1.63 g | COC1=CC=C(CN2C(C3=CN=CC=C3CC2)=O)C=C1 | C16H16N2O2
reactant | p-toluene sulfonic acid monohydrate | 24.30 mmol, 4.62 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3,4-dihydro-2H-[2,7]naphtyridine-1-on | C1(NCCC2=CC=NC=C12)=O | C8H8N2O
